US05763437
To a solution of (3RS)-1-{(3-azabicyclo[3.2.2]non-3-yl)-carbonylmethyl}-3-amino-5-(2-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepin-2-one (100mg) and 4-nitrophenyl N-(3-trifluoromethylphenyl)carbamate (90.1 mg) in dimethylformamide (2 ml) was added triethylamine (28 mg) under stirring at ambient temperature. The mixture was stirred for 3.5 hours under the same condition. The reaction mixture was poured into water and extracted with ethyl acetate. The extract was washed with water three times and dried over magnesium sulfate. The solvent was removed in vacuo to give an amorphous mass, which was pulverized in diisopropyl ether under vigorous stirring. The resulting powder was collected by filtration and washed with diisopropyl ether to afford N-[(3RS)-1-{(3-azabicyclo[3.2.2]non-3-yl)-carbonylmethyl}-2,3-dihydro-5-(2-fluorophenyl)-2-oxo-1H-1,4-benzodiazepin-3-yl]-N'-(3-trifluoromethylphenyl)urea (124.4 mg).

reactant | (3RS)-1-{(3-azabicyclo[3.2.2]non-3-yl)-carbonylmethyl}-3-amino-5-(2-fluorophenyl)-2,3-dihydro-1H-1,4-benzodiazepin-2-one | 100mg | C12CN(CC(CC1)CC2)C(=O)CN2C(C(N=C(C1=C2C=CC=C1)C1=C(C=CC=C1)F)N)=O | C25H27FN4O2
reactant | 4-nitrophenyl N-(3-trifluoromethylphenyl)carbamate | 90.1 mg | FC(C=1C=C(C=CC1)NC(OC1=CC=C(C=C1)[N+](=O)[O-])=O)(F)F | C14H9F3N2O4
reactant | triethylamine | 28 mg | C(C)N(CC)CC | C6H15N
reactant | water | O | H2O
solvent | dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
solvent | diisopropyl ether | C(C)(C)OC(C)C | C6H14O
product | N-[(3RS)-1-{(3-azabicyclo[3.2.2]non-3-yl)-carbonylmethyl}-2,3-dihydro-5-(2-fluorophenyl)-2-oxo-1H-1,4-benzodiazepin-3-yl]-N'-(3-trifluoromethylphenyl)urea | 124.4 mg | C12CN(CC(CC1)CC2)C(=O)CN2C(C(N=C(C1=C2C=CC=C1)C1=C(C=CC=C1)F)NC(=O)NC1=CC(=CC=C1)C(F)(F)F)=O | C33H31F4N5O3
